US09422240B2
[3-(Trifluoromethyl)phenyl]acetaldehyde
To a solution of 3-(trifluoromethyl)phenethyl alcohol (2.00 g) in chloroform (50.0 mL), Dess-Martin periodinane (4.70 g) was added under cooling with ice. After being brought to room temperature, the reaction mixture was stirred for an hour. Subsequently, a saturated aqueous solution of sodium hydrogencarbonate (25.0 mL) and a saturated aqueous solution of sodium thiosulfate (25.0 mL) were added and the mixture was vigorously stirred for an hour. After phase separation, the organic layer was dried over anhydrous magnesium sulfate, the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=98:2-85:15) to give the titled compound as a pale yellow oil (1.19 g).

reactant | 3-(trifluoromethyl)phenethyl alcohol | 2.00 g | FC(C=1C=C(CCO)C=CC1)(F)F | C9H9F3O
reactant | Dess-Martin periodinane | 4.70 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogencarbonate | 25.0 mL | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 25.0 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 50.0 mL | C(Cl)(Cl)Cl | CHCl3
product | [3-(Trifluoromethyl)phenyl]acetaldehyde | 1.19 g | FC(C=1C=C(C=CC1)CC=O)(F)F | C9H7F3O
